US06437184B1
First, 0.27 g of 4-(2,6-diethyl-4-(3,3-dichloro-2-propenyloxy)phenoxy)-butyloxyacetaldehyde oxime, 0.10g of potassium carbonate, 0.16 g of benzyl bromide, and 10 ml of N,N-dimethylformamide were placed in a reaction vessel. After stirring at room temperature for 24 hours, the reaction mixture was poured into water, and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with water, dried over anhydrous magnesium sulfate, and concentrated to give a crude product. This crude product was subjected to silica gel chromatography, which afforded 0.21 g (yield, 56%) of 4-(2,6-diethyl-4-(3,3-dichloro-2-propenyloxy)phenoxy)-butyloxyacetaldehyde O-benzyloxime, nD22.5 1.5402.

reactant | 4-(2,6-diethyl-4-(3,3-dichloro-2-propenyloxy)phenoxy)-butyloxyacetaldehyde oxime | 0.27 g | C(C)C1=C(OCCCCOCC=NO)C(=CC(=C1)OCC=C(Cl)Cl)CC | C19H27Cl2NO4
reactant | potassium carbonate | 0.10g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.16 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(2,6-diethyl-4-(3,3-dichloro-2-propenyloxy)phenoxy)-butyloxyacetaldehyde O-benzyloxime | 0.21 g, 56% | C(C1=CC=CC=C1)ON=CCOCCCCOC1=C(C=C(C=C1CC)OCC=C(Cl)Cl)CC | C26H33Cl2NO4
